US04402960
1.8 g of sodium hydride (50% in white oil) is added in incremental portions to a solution of 10.5 g of 4,5-bis(4-methoxyphenyl)imidazole in 50 ml of absolute dimethylformamide. The mixture is agitated for another 30 minutes and then 5.35 g of methyl iodide in 50 ml of dimethylformamide is dropped thereto. After 60 minutes, the mixture is poured into ice water, the product taken up in ethyl acetate, the organic solution dried over sodium sulfate and concentrated under vacuum. The residue is recrystallized from benzene, thus obtaining 9.59 g of 4,5-bis(4-methoxyphenyl)-1-methylimidazole, mp 122°-123°.

reactant | sodium hydride | 1.8 g | [H-].[Na+]
reactant | 4,5-bis(4-methoxyphenyl)imidazole | 10.5 g | COC1=CC=C(C=C1)C=1N=CNC1C1=CC=C(C=C1)OC | C17H16N2O2
reactant | methyl iodide | 5.35 g | CI | CH3I
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,5-bis(4-methoxyphenyl)-1-methylimidazole | 9.59 g | COC1=CC=C(C=C1)C=1N=CN(C1C1=CC=C(C=C1)OC)C | C18H18N2O2
